US04387100
In a manner analogous to that described in Example 10(b), from 1H-1,2,4-triazole and 1-benzyloxy-4-(2-methane-sulfonyloxyethyl)benzene, 4-[2-(1H-1,2,4-triazol-1-yl)ethyl]phenol was obtained.

reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | 1-benzyloxy-4-(2-methane-sulfonyloxyethyl)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCOS(=O)(=O)C | C16H18O4S
product | 4-[2-(1H-1,2,4-triazol-1-yl)ethyl]phenol | N1(N=CN=C1)CCC1=CC=C(C=C1)O | C10H11N3O
